US04066635
d. L-pyroglutamyl-L-histidyl-L-prolyl-β-alaninamide acetate
1.0 g of benzyloxycarbonyl-L-histidyl-L-prolyl-β-alaninamide were dissolved in 50 ml of methanol and hydrogenated with the addition of palladium/carbon. The catalyst was filtered off and the filtrate concentrated in vacuo. The residue was dissolved in 10 ml of dimethylformamide and treated with 0.9 g of L-pyroglutamic acid pentachlorophenyl ester. The mixture was stored for 24 hours at room temperature and then concentrated in vacuo. The residue was dissolved in water and chromatographed on a Dowex 2 column (OH form). The fractions which were uniform in a thin-layer chromatogram were combined, acidified with acetic acid and lyophilised. Yield: 0.8 g. [α]D25 = -82.2° (c = 1 in 1 N acetic acid).

reactant | benzyloxycarbonyl-L-histidyl-L-prolyl-β-alaninamide | 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)NCCC(=O)N)CCC1 | C22H28N6O5
reactant | methanol | 50 ml | CO | CH4O
solvent | palladium/carbon | [Pd] | Pd
product | L-pyroglutamyl-L-histidyl-L-prolyl-β-alaninamide acetate | C(C)(=O)O.N1[C@@H](CCC1=O)C(=O)N[C@@H](CC1=CNC=N1)C(=O)N1[C@H](C(=O)NCCC(=O)N)CCC1 | InChI=1S/C19H27N7O5.C2H4O2/c20-15(27)5-6-22-18(30)14-2-1-7-26(14)19(31)13(8-11-9-21-10-23-11)25-17(29)12-3-4-16(28)24-12;1-2(3)4/h9-10,12-14H,1-8H2,(H2,20,27)(H,21,23)(H,22,30)(H,24,28)(H,25,29);1H3,(H,3,4)/t12-,13-,14-;/m0./s1
